US05358953
4-(8-Chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyrid-11-ylidene) -1-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)benzoyl]piperidine hemihydrate
A solution of 4-(8-chloro-5,6-dihydro-11-H-benzo[5,6]cyclohepta[1,2-b]pyrid-11-ylidene-piperidine (224 mg, 0.75 mmol) and (4-(2-methylimidazo[4,5-c]pyrid-1-yl)benzoic acid (190 mg, 0.75 mmol) in dichloromethane (12 ml) was treated sequentially with 1-hydroxybenzotriazole hydrate (102 mg, 0.75 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (290 mg, 1.5 mmol) and 4-methylmorpholine (165 μl; 1.5 mmol). The mixture was stirred at room temperature for 16 hours, washed with water, dried over magnesium sulphate and evaporated. The residue was purified by chromatography on silica using dichloromethane plus 3-4% methanol as eluant. Appropriate fractions were combined and evaporated to give the title compound (113 mg, 27%) as a colourless foam which was characterised as a hemihydrate. Found: C,71.1; H,5.2; N,12.3. C33H28ClN5O. 0.5 H2O requires C,71.4; H,5.3; N,12.6%.

reactant | 8-chloro-5,6-dihydro-11-H-benzo[5,6]cyclohepta[1,2-b]pyrid-11-ylidene-piperidine | 0.75 mmol, 224 mg | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2NCCCC2)C1 | C19H19ClN2
reactant | 4-(2-methylimidazo[4,5-c]pyrid-1-yl)benzoic acid | 0.75 mmol, 190 mg | CC=1N(C2=C(C=NC=C2)N1)C1=CC=C(C(=O)O)C=C1 | C14H11N3O2
reactant | 1-hydroxybenzotriazole hydrate | 0.75 mmol, 102 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.5 mmol, 290 mg | Cl.CN(CCCN=C=NCC)C
reactant | 4-methylmorpholine | 1.5 mmol, 165 μl | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | 4-(8-Chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyrid-11-ylidene) -1-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)benzoyl]piperidine hemihydrate | 113 mg, 27% | O.ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)C(C2=CC=C(C=C2)N2C(=NC=3C=NC=CC32)C)=O)C1.ClC=1C=CC3=C(CCC=2C(=NC=CC2)C3=C3CCN(CC3)C(C3=CC=C(C=C3)N3C(=NC=2C=NC=CC23)C)=O)C1 | InChI=1S/2C33H28ClN5O.H2O/c2*1-21-37-29-20-35-16-12-30(29)39(21)27-9-6-24(7-10-27)33(40)38-17-13-22(14-18-38)31-28-11-8-26(34)19-25(28)5-4-23-3-2-15-36-32(23)31;/h2*2-3,6-12,15-16,19-20H,4-5,13-14,17-18H2,1H3;1H2
